US07122546B2
Lithium aluminum hydride (1N solution in THF, 1 mL) is added to a stirred solution of 4,6-diethoxy-pyridazine-3-carboxylic acid ethyl ester (213 mg, 0.8 mmol) in THF (8 mL) cooled to 0° C. The solution is stirred at 0° C. for 3 hours. Excess Na2SO4-10H2O is then added and the mixture is stirred at room temperature for 45 minutes. The solid is filtered and washed with EtOAc. Evaporation of the filtrate in vacuo provides (4,6-diethoxy-pyridazin-3-yl)-methanol as a light yellow oil, which is used without further purification for the next step.

reactant | Lithium aluminum hydride | 1N, 1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,6-diethoxy-pyridazine-3-carboxylic acid ethyl ester | 0.8 mmol, 213 mg | C(C)OC(=O)C=1N=NC(=CC1OCC)OCC | C11H16N2O4
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (4,6-diethoxy-pyridazin-3-yl)-methanol | C(C)OC1=C(N=NC(=C1)OCC)CO | C9H14N2O3
